US06545009B1
In the same manner as in Example 106, ethyl 4-[N-(4-chlorobenzoylmethyl)carbamoyl]benzoate was reacted with phosphorus oxychloride to obtain ethyl 4-[5-(4-chlorophenyl)-2-oxazolyl]benzoate. The product was recrystallized from ethyl acetate-isopropyl ether. Yield: 80%. Pale yellow prisms. Melting point: 195 to 197° C.

reactant | ethyl 4-[N-(4-chlorobenzoylmethyl)carbamoyl]benzoate | ClC1=CC=C(C(=O)CNC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H16ClNO4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 4-[5-(4-chlorophenyl)-2-oxazolyl]benzoate | Yield: 80% | ClC1=CC=C(C=C1)C1=CN=C(O1)C1=CC=C(C(=O)OCC)C=C1 | C18H14ClNO3
